US06894061B2
N-[1-(4′-Chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethyl]-4-methoxybenzenesulfonamid
The title compound was prepared from 4-methoxybenzenesulfonyl chloride (331 mg, 1.6 mmol), 1-(4′chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethylamine (400 mg, 1.6 mmol), and triethylamine (246 μL, 1.7 mmol) according to the procedure and in the same manner as described in Example 105, step c resulting in the isolation of 644 mg (96%) of a white solid;

reactant | 4-methoxybenzenesulfonyl chloride | 1.6 mmol, 331 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 1-(4′chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethylamine | 1.6 mmol, 400 mg | ClC1=CC(=C(C=C1)C1=C(C=CC=C1)C(C)N)F | C14H13ClFN
reactant | triethylamine | 1.7 mmol, 246 μL | C(C)N(CC)CC | C6H15N
product | N-[1-(4′-Chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethyl]-4-methoxybenzenesulfonamid | ClC1=CC(=C(C=C1)C1=C(C=CC=C1)C(C)NS(=O)(=O)C1=CC=C(C=C1)OC)F | C21H19ClFNO3S
